US09162987B2
4-Iodo-6-(thiophen-3-yl)pyrimidine (ACT-MIF-022)
The compound was prepared according to Example 1 using thiophene-3-boronic acid and 4,6-dichloropyrimidine. The resultant chloro compound was converted to iodo with hydroiodic acid as described in the general procedure.

reactant | thiophene-3-boronic acid | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | 4,6-dichloropyrimidine | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | hydroiodic acid | I | HI
product | 4-Iodo-6-(thiophen-3-yl)pyrimidine | IC1=NC=NC(=C1)C1=CSC=C1 | C8H5IN2S
